US04129740
4.982 g of 97% ortho-nitrosotoluene (41.12 mmol) were dissolved in 20 ml of methylene chloride at room temperature and 5.93 g of 98% methane sulfonic acid (61.7 mmol = molar ratio of 1:1.5) added thereto in the course of 2 minutes. Stirring was continued for one-half hour at room temperature and subsequently the dark brown, clear solution sprayed into water of 30° C. under a vacuum, whereby the methylene chloride was distilled off simultaneously. By means of filtration, it was possible to obtain 4.85 g = 97% of theoretical, of N-(2-methylphenyl)-N-(3-methyl-4-nitrosophenyl)-hydroxylamine in the form of a light yellow powder.

reactant | ortho-nitrosotoluene | 41.12 mmol, 4.982 g | N(=O)C1=C(C=CC=C1)C | C7H7NO
reactant | methane sulfonic acid | 61.7 mmol, 5.93 g | CS(=O)(=O)O | CH4O3S
reactant | water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(2-methylphenyl)-N-(3-methyl-4-nitrosophenyl)-hydroxylamine | CC1=C(C=CC=C1)N(O)C1=CC(=C(C=C1)N=O)C | C14H14N2O2
